US06716851B2
4-(1-Pyrazolyl)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine (74 mg, 0.285 mmol) and pyrazole (28 mg, 0.425 mmol) similar to Example 166 and was isolated as a white solid (mp 151-152° C., 67 mg, 0.230 mmol, 81%). 1H NMR (CDCl3) 9.71 (s, 1H), 8.77 (m, 3H), 8.19 (s, 1H), 7.88 (m, 1H), 7.47 (m, 1H), 6.61 (dd, J=1.5, 2.7 Hz, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | 0.285 mmol, 74 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | pyrazole | 0.425 mmol, 28 mg | N1N=CC=C1 | C3H4N2
product | 4-(1-Pyrazolyl)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | N1(N=CC=C1)C1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C13H8F3N5
